Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
worsening paranoia and agitation in group home.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
In brief, this is a ___ male with a hx of schizoaffective
disorder who presents with worsening paranoia and agitation in
the context of a recent move from ___ to ___.
Family was concerned about pt's well-being in ___ following a
psychiatric hospitalization for similar symptoms and moved pt to
be closer to them. Pt came to ___ ___ weeks ago and was living
with family until ___. On ___, pt got into a physical
altercation with his brother precipitated by his anxiety about
transitioning to ___ in ___. He reports putting his
hands around his brother's neck- "but he's stronger than I am- I
knew it wouldn't hurt him.. afterwards, I cried because I felt 
so
badly about what I had done." 

Pt was otherwise doing OK until experiencing dysuria yesterday.
He was seen at ___ and apparently diagnosed with
prostatitis. Reportedly, pt was not given antibiotics and told 
to
f/u with a urologist. However, pt reports that he overheard
physicians discussing ___ patient with prostate cancer and pt
became concerned that they were talking about him. This made pt
quite anxious, and he got into a verbal altercation (not
physical) with staff member at ___ because "I didn't 
think
that he was being caring." Pt also became angry with his brother
when discussing situation. Again, he afterwards expressed 
remorse
for "losing my temper." Pt does admit to increased anxiety and
paranoia. Denies AH/VH/delusions of reference. Not
depressed/suicidal/homicidal.

Spoke with brother, ___ ___, who reports that
pt has been struggling since their mother passed away ___ 
years
ago. Pt had lived with mother in ___ x ___ years. He subsequently
lived alone in ___ until this was no longer possible. He moved to
supported housing until he became agitated one day, presumably
for paranoid reasons and was subsequently hospitalized
(aforementioned hospitalization). ___ had him moved to ___ to be
closer to himself as well as their father who lives in ___. 
___
reports that pt has had ~15 psych hospitalizations in the last
___ years, generally under similar circumstances. He 
emphasizes
that pt is generally not violent- reportedly, incident last
___ was the worst-ever episode. Denies that pt has ever had
legal issues or police involvement. ___ reports that he feels
that pt is intermittently adherent with med regimen and that
recent changes have likely been destabilizing.

 
Past Medical History:
Past Psych Hx
- as noted, also no suicidality/homicidality
- long time psychiatrist in ___ was Dr. ___ in ___ 
- pt reports trials of Abilify (?adverse effects), Risperdal and
Seroquel (both apparently worked before ?pooping out), Zyprexa
(doesn't remember), Haldol ("did a number on me")
- pt admits that he is intermittently adherent with med regimen

Past Medical Hx
Testicular CA s/p radical orchectomy bilaterally

 
Social History:
___
Family History:
Per pt's brother, hx of major depression in pt's mother.  
 
Physical Exam:
MENTAL STATUS EXAM 
APPEARANCE & FACIAL EXPRESSION: Lying in bed, tremulous,
Alert, NAD
POSTURE: Somewhat rigid - holds hia arms at his sides which
he states helps him to control himself.
BEHAVIOR: Poor Eyecontact 
ATTITUDE: Coorperative, plantive, remorseful
SPEECH: Vacilates between poverty of speech and loquacious
speech depending on the topic. Normal rate and rhythm.
MOOD: Anxious
AFFECT: 
THOUGHT FORM: extremely tangential, and circumstantial, 
some flights of ideas, Thought blocking
THOUGHT CONTENT: Perseverates on remorse about the incident
at ___. Concerned that he may not be allowed to live 
there.
ABNORMAL PERCEPTIONS: Denies AH/VH. Admits to Paranoia about
people talking about him. No outright conspiracy theories but
believes that the ED doctors were ___ information about
prostate CA from him because of his psychiatric issues.   
NEUROVEGETATIVE SYMPTOMS: Patient has good sleep with
Ambien, poor appetite 
SUICIDALITY/HOMICIDALITY: Denies SI/HI
INSIGHT AND JUDGMENT: Fair insight into his paranoia.  He
seems to understand that it is a little unresonable. Fair
judgement - becomes labile and aggressive but is later 
remorseful
and understands that he has bene inappropriate.
COGNITIVE ASSESSMENT:
SENSORIUM: Alert
ORIENTATION: Fully Oriented
ATTENTION: Intact to Days of week backwards and months
of year backwards
MEMORY: Short term  intact X3 ___, ___, ___ with
prompting, Medium term intact. Unable to assess long term 
because
of tangentiality
FUND OF KNOWLEDGE: Difficult to assess
PROVERB INTERPRETATION: Inact - early bird catches the
worm
SIMILARITIES/ANALOGIES: intact: Apple and Orange are
both fruit

 
Pertinent Results:
___ 07:45PM   GLUCOSE-108* UREA N-9 CREAT-1.2 SODIUM-144 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-32 ANION GAP-13
___ 07:45PM   ALT(SGPT)-39 AST(SGOT)-23 ALK PHOS-60 TOT 
BILI-0.4
___ 07:45PM   CALCIUM-9.7 PHOSPHATE-4.1 MAGNESIUM-2.1
___ 07:45PM   TSH-0.26*
___ 07:45PM   WBC-8.8 RBC-4.88 HGB-14.8 HCT-41.3 MCV-85 
MCH-30.3 MCHC-35.9* RDW-13.1
___ 07:45PM   PLT COUNT-296
___ 08:40AM   GLUCOSE-166* UREA N-9 CREAT-1.4* SODIUM-143 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-30 ANION GAP-13
___ 08:40AM   estGFR-Using this
___ 08:40AM   TSH-0.31
___ 08:40AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:40AM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 08:40AM   WBC-7.2 RBC-4.98 HGB-14.7 HCT-42.5 MCV-85 
MCH-29.5 MCHC-34.6 RDW-13.3
___ 08:40AM   NEUTS-82.3* LYMPHS-13.8* MONOS-3.3 EOS-0.2 
BASOS-0.4
___ 08:40AM   PLT COUNT-292
___ 08:40AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
Pt has a chronic psychotic illness, and presented with with 
agitation, paranoia, and overall decompensation in the context 
of a recent move from ___ to ___ and medication non-adherence. 
Given his agitation and inability to care for himself at time of 
admission, even in a supportive environment such as ___, 
suggested that he met Section XII criteria for involuntary psych 
hospitalization. Pt was agreeable to hospitalization and was 
admitted to Deac 4.  Hospital course by problem:

1.  Schizoaffective d/o:  Pt was initially continued on his 
outpatient medication regimen of ziprasidone, buproprion, and 
venlafaxine.  After psychopharmacologic evaluation, his 
medication regimen was adjusted.  Ziprasidone was increased to 
80mg BID, buproprion was discontinued, and venlafaxine was 
increased to 225mg daily (XR).  These changes were made to 
optimize benefits of antipsychotic medication by boosting to a 
therapeutic dose, and to simplify antidepressant regimen by 
changing to one agent at a therapeutic dose.  He continued to 
display some intermittent paranoia, but remained largely 
organized and in good behavioral control.  

2.  Anxiety:  Pt was continued on his home dose of lorazepam at 
bedtime, and also was given prn doses of lorazepam up to 4 times 
daily for management of anxiety.  In addition to medication, he 
participated in coping skills groups and worked with 
occupational therapy to develop good coping mechanisms to help 
him deal with anxiety.  He continued to focus somewhat on 
somatic worries (high blood pressure, abnormal prostate exam), 
but was able to use coping skills to help with these worries and 
keep them from interfereing in daily functioning.  At the time 
of discharge, pt was quite concerned with having difficulty with 
anxiety and not having easy access to prn medications after 
discharge.  We adjusted his lorazepam regimen to 1mg BID plus 
0.5mg BID prn anxiety.

3.  Prostatitis:  Pt was continued on a 10-day course of 
ciprofloxacin as directed in ___ emergency room for 
dysuria and a diagnosis of likely prostatitis.  As he did have 
an abnormal prostate exam in the ED per St. E's records, he 
should have urology follow-up.  

4.  Legal: ___
5.  Outpatient follow-up:  As pt very recently moved to the 
___ area from his long-term residence in ___.  For that 
reason, he does not have any relationships here with mental 
health (or general health) care providers.  He is being 
discharged to ___ in ___, where he will have the 
support of structured group home and day treatment program.  He 
will also be followed by an affiliated psychiatrist there, Dr. 
___.  He will have an intake at ___ in ___ 
for individual therapy.  Finally, he will need to use the 
find-a-doctor line for a PCP and get referral to urology from 
there.  In addition, a D___ application is being filed to 
potentially get access for adult services in the ___ area for 
this patient in the future.

 
Medications on Admission:
Geodon ___
Wellbutrin SR 150/1
Effexor XR ___
Ativan 0.5mg qHS
Synthroid ___
ASA ___
Zocor ___
Ambien 10mg qHS:PRN
PRN ___
 
Discharge Medications:
1. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).
Disp:*60 Tablet(s)* Refills:*0*
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Three (3) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).
Disp:*90 Capsule, Sust. Release 24 hr(s)* Refills:*0*
5. Ziprasidone HCl 80 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
6. Simvastatin 40 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*15 Tablet(s)* Refills:*0*
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed.  
8. Aluminum-Magnesium Hydroxide 225-200 mg/5 mL Suspension Sig: 
Thirty (30) ML PO Q4H (every 4 hours) as needed.  
9. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for anxiety.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Axis I:  Schizoaffective disorder with depressed mood
Axis II:  deferred
Axis III:  hx of HTN, testicular cancer s/p orchiectomy, and 
recent abnormal prostate exam and treatment for prostatitis
Axis IV:  recent move from ___, no outpatient treaters in place 
yet locally
Axis V:  GAF 60

 
Discharge Condition:
Discharged to group home in stable condition, not experiencing 
any thoughts of self-harm or harm to others, in a state that he 
is able to care for himself in the environment he is being 
discharged to.  

 
Discharge Instructions:
Please continue to take all of your medications as prescribed.
Please keep all follow-up appointments as directed.
Please return to the emergency room should you feel unsafe at 
any time.
 
Followup Instructions:
___